US05001159
(a) N-[2-(2-Methylpropoxy)phenyl]-3-(trifluoromethyl)benzamide
A solution of 12.5 g of 3.(trifluoromethyl)benzoyl chloride in 60 ml of dichloromethane is added dropwise to a suspension of 9.9 g of 2-(2-methylpropoxy)benzenamine and 33 g of potassium carbonate in 90 ml of dichloromethane, cooled in an ice-bath.

reactant | (trifluoromethyl)benzoyl chloride | FC(F)(F)C1=C(C(=O)Cl)C=CC=C1 | C8H4ClF3O
reactant | 2-(2-methylpropoxy)benzenamine | 9.9 g | CC(COC1=C(C=CC=C1)N)C | C10H15NO
reactant | potassium carbonate | 33 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | N-[2-(2-Methylpropoxy)phenyl]-3-(trifluoromethyl)benzamide | CC(COC1=C(C=CC=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C | C18H18F3NO2
